Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
___ 03:30PM BLOOD WBC-6.9 RBC-5.03 Hgb-15.6 Hct-47.6* 
MCV-95 MCH-31.0 MCHC-32.8 RDW-12.0 RDWSD-41.7 Plt ___
___ 03:48PM BLOOD ___ PTT-29.8 ___
___ 03:30PM BLOOD Glucose-86 UreaN-11 Creat-0.8 Na-138 
K-4.4 Cl-99 HCO3-22 AnGap-17
___ 03:30PM BLOOD ALT-384* AST-414* AlkPhos-83 TotBili-3.0*
___ 03:30PM BLOOD Albumin-5.4* Calcium-10.9* Phos-2.3* 
Mg-2.3*

LABS AT PEAK OF LIVER INJURY
___ 10:30AM BLOOD ALT-3092* AST-3332* LD(LDH)-2453* 
CK(CPK)-99 AlkPhos-57 TotBili-1.7* ___

DISCHARGE LABS
___ 06:40AM BLOOD Glucose-86 UreaN-7 Creat-0.5 Na-141 K-4.1 
Cl-107 HCO3-24 AnGap-10
___ 06:40AM BLOOD ALT-1260* AST-296* LD(LDH)-206 AlkPhos-53 
TotBili-0.5
___ 06:40AM BLOOD Albumin-4.0 Calcium-9.3 Phos-4.2 Mg-1.9

OTHER NOTABLE LABS
___ 10:30AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG IgM HAV-NEG
___ 10:30AM BLOOD Smooth-NEGATIVE
___ 10:30AM BLOOD ___
___ 10:30AM BLOOD IgG-1344 IgA-192 IgM-98
___ 10:30AM BLOOD CMV IgG-NEG CMV IgM-NEG CMVI-There is n 
EBV IgG-POS* EBNA-POS* EBV IgM-NEG EBVI-Results in
___ 10:30AM BLOOD HIV Ab-NEG
___ 10:30AM BLOOD HCV VL-NOT DETECT
___ 10:30AM BLOOD HCV Ab-NEG

ABDOMINAL US ___
Normal abdominal ultrasound.

 
Brief Hospital Course:
___ w/ depression, absence seizures in childhood, p/w 
intentional acetaminophen overdose. She presented >24 hours 
after ingestion, at which point Tylenol level was zero and LFTs 
were just starting to rise dramatically. She was treated with a 
n N-acetyl cysteine infusion, and supportive care. Liver injury 
is resolving and she is medically stable for discharge to 
psychiatric care. 

ACTIVE ISSUES:
=================
# Acute liver injury
# Acetaminophen overdose
Hepatocellular ___ with severe biochemical injury (AST to 4300, 
ALT to 3010). She was treated with a NAC gtt and LLT 
abnormalities are rapidly reversing. Synthetic function did not 
become impaired, and INR rose only the amount expected in the 
setting of NAC interfering with the INR assay. ___ 
Criteria 0. 
A broad workup was sent by the admitting physician to rule out 
other causes of liver injury. Viral hepatitis serologies, HIV, 
acute CMV, acute HBV, autoimmune hepatitis serologies, and RUQ 
US, were all negative. 

# Suicide attempt
Underlying psychiatric disorder unclear to this author (and was 
left unspecified in the consult note by the consulting 
psychiatrist). She seems superficially to be very cheerful and 
well adjusted, although her history of suicidal and 
self-injurious behavior when under stress suggests otherwise. 
Given her recent suicide attempt, and her history of prior 
suicide attempt, psych felt that she would require inpatient 
psychiatric care in order to ensure her safety. She had a 1:1 
sitter during her medical course, and is discharged to ___ 
___ under a ___.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Intentional acetaminophen overdose
Acute liver injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after taking an overdose of 
acetaminophen. This medication is toxic to the liver in high 
doses. We supported and monitored your liver as it recovered 
from the damage. There should be no permanent damage. You were 
given an IV infusion of N-acetyl cysteine, which is a chemical 
the body needs in order to break down the toxic by-product of 
acetaminophen that accumulates after an overdose.

Our psychiatrists felt you needed to receive inpatient 
psychiatric care in order to ensure you are safe. You are being 
discharged to ___ own psychiatric facility, which is just a 
short walk from your hospital room in an adjoining building.
 
Followup Instructions:
___